US07825264B2
tert-Butyl 4[1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]carbamate 0.314 g (8.3 mmol) of sodium borohydride was added in 4 portions to a solution of 3.16 g (8.3 mmol) of tert-butyl [1-(4-fluorophenyl)-2-oxo-2-quinolin-8-ylethyl]carbamate in 45 ml of methanol at 0-5° C. The reaction mixture was stirred at 0-5° C. for 0.5 h and then at room temperature for 0.5 h and subsequently poured into an aqueous sodium dihydrogen phosphate solution (80 g/l). Extraction twice with ethyl acetate was followed by drying on magnesium sulfate. Concentration resulted in 2.78 g of tert-butyl [1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]carbamate (diastereoisomer mixture: 80/20) as pale yellow powder (yield: 88%).

reactant | sodium borohydride | [BH4-].[Na+]
reactant | tert-butyl [1-(4-fluorophenyl)-2-oxo-2-quinolin-8-ylethyl]carbamate | 8.3 mmol, 3.16 g | FC1=CC=C(C=C1)C(C(C=1C=CC=C2C=CC=NC12)=O)NC(OC(C)(C)C)=O | C22H21FN2O3
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | tert-butyl [1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]carbamate | 2.78 g, yield: 88% | FC1=CC=C(C=C1)C(C(C=1C=CC=C2C=CC=NC12)O)NC(OC(C)(C)C)=O | C22H23FN2O3
